US05852023
Preparation of the precursor 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-iodopyrimidine
3.6 g (10 mmol) of 4-(cis-4-tert-butylcyclohexylamino)-6-iodopyrimidine and 2.0 g of N-chlorosuccinimide were heated at reflux for 8 hours in 15 ml of chloroform. After cooling to room temperature, the mixture was extracted by stirring with dilute sodium hydroxide solution and water and the organic phase was dried and concentrated. The residue was purified by chromatography on silica gel (petroleum ether/ethyl acetate 4:1) to give first of all 2.3 g (58.4% of theory) of product (a colorless oil which gradually crystallized, m.p. 89° to 90° C.) and, finally, 1.0 g of unreacted starting material.

reactant | 4-(cis-4-tert-butylcyclohexylamino)-6-iodopyrimidine | 10 mmol, 3.6 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1)I | C14H22IN3
reactant | N-chlorosuccinimide | 2.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-iodopyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)I | C14H21ClIN3
